US04127646
To a solution of 1.5 g. (0.01 mol) of 3,5-diaminonitrobenzene in 3 ml. of pyridine cooled to 5° C. was added 1.6 ml. (0.02 mol) of methanesulfonyl chloride, dropwise, and the mixture was stirred for 90 minutes at room temperature. The reaction mixture was decomposed by adding dilute hydrochloric acid and ice. The solid was filtered, washed with water and dried to give 3,5-bis-methylsulfonamidonitrobenzene, m.p. 223°-224° C.

reactant | 3,5-diaminonitrobenzene | 0.01 mol | NC=1C=C(C=C(C1)N)[N+](=O)[O-] | C6H7N3O2
reactant | methanesulfonyl chloride | 0.02 mol | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3,5-bis-methylsulfonamidonitrobenzene | CS(=O)(=O)NC=1C=C(C=C(C1)NS(=O)(=O)C)[N+](=O)[O-] | C8H11N3O6S2
